US07378417B2
7-Cyclopropyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid[3-(2-hydroxy-1,1-dimethyl-ethylsulfamoyl)-phenyl]-amide
The title compound was prepared from 7-cyclopropyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid (example C.29) and 3-amino-N-(2-hydroxy-1,1-dimethyl-ethyl)-benzenesulfonamide (example B.8) according to general procedure II. Pale-yellow solid. MS (ISP) 574.5 [(M+H)+]; mp 228-230° C.

reactant | 7-cyclopropyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid | C1(CC1)C1=CC(=NC=2N1N=CC2C(=O)O)C2=CC=C(C=C2)C(F)(F)F | C17H12F3N3O2
reactant | 3-amino-N-(2-hydroxy-1,1-dimethyl-ethyl)-benzenesulfonamide | NC=1C=C(C=CC1)S(=O)(=O)NC(CO)(C)C | C10H16N2O3S
product | 7-Cyclopropyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid[3-(2-hydroxy-1,1-dimethyl-ethylsulfamoyl)-phenyl]-amide | OCC(C)(C)NS(=O)(=O)C=1C=C(C=CC1)NC(=O)C=1C=NN2C1N=C(C=C2C2CC2)C2=CC=C(C=C2)C(F)(F)F | C27H26F3N5O4S
